US04393217
As for Example 1, 2-cyano-2'-ethylacetanilide is heated with N,N-dimethylacetamide dimethylacetal to give 2-cyano-3-dimethylamino-2'-ethylcrotonanilide as colorless prisms, m.p. 79°-81.5° C.

reactant | 2-cyano-2'-ethylacetanilide | C(#N)CC(=O)NC1=C(C=CC=C1)CC | C11H12N2O
reactant | N,N-dimethylacetamide dimethylacetal | COC(C)(N(C)C)OC | C6H15NO2
product | 2-cyano-3-dimethylamino-2'-ethylcrotonanilide | C(#N)/C(/C(=O)NC1=C(C=CC=C1)CC)=C(\C)/N(C)C | C15H19N3O
